US07947689B2
(2-Bromo-7-methyl-4,7-dihydro-5H-thieno[2,3-c]pyridin-6-yl)-(6-bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-methanone
In close analogy to the procedure described in Example 1, 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid is reacted with 2-bromo-7-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine to provide the title compound.

reactant | 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | BrC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4BrN3O2
reactant | 2-bromo-7-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine | BrC1=CC2=C(C(NCC2)C)S1 | C8H10BrNS
product | (2-Bromo-7-methyl-4,7-dihydro-5H-thieno[2,3-c]pyridin-6-yl)-(6-bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-methanone | BrC1=CC2=C(C(N(CC2)C(=O)C2=NN3C(N=CC(=C3)Br)=C2)C)S1 | C15H12Br2N4OS
